US04241222
Preparation of Cumyl t-Octyl Peroxide
Into the 200 ml jacketed reactor described in Example II were added 18.0 grams (0.152 m) alpha-methylstyrene, 18.4 grams (0.11 m) 87.6% 1,1,3,3-tetramethylbutyl hydroperoxide and 4.6 grams (0.048 m) phenol. The mixture was stirred to obtain a clear solution and the temperature was adjusted to 20° C. To this solution was added 1.7 grams (0.011 m) of t-cumyl chloride from the addition funnel over 5 minutes while holding the temperature at 20°-21° C. The reaction was stirred 5 minutes at 21°-22° C., warmed to 25° C. and stirred 1/2 hour at 25° C., 1/2 hour at 30° C., 1/2 hour at 35° C., 11/2 hours at 40° C. and finally 1/2 hour at 45° C. At this point the t-octyl hydroperoxide had been completely consumed and the reaction was terminated by adding 50 mls of water, stirring 5 minutes, adding 10 mls of 50% NaOH, stirring another 5 minutes and separating the aqueous caustic layer. The organic layer was successively washed with 50 mls 15% NaOH, saturated NaHCO3 solution, H2O, 15% NaHSO3 solution, saturated NaHCO3 solution and water. After drying over anhydrous sodium sulfate the crude product weighed 32.6 grams and contained 72.6% cumyl t-octyl peroxide for a corrected yield of 23.7 grams and a 81.5% yield.

reactant | alpha-methylstyrene | 18.0 grams | CC(=C)C1=CC=CC=C1 | C9H10
reactant | 1,1,3,3-tetramethylbutyl hydroperoxide | 18.4 grams | CC(CC(C)(C)C)(C)OO | C8H18O2
reactant | phenol | 4.6 grams | C1(=CC=CC=C1)O | C6H6O
product | Cumyl t-Octyl Peroxide | 81.5% yield | C(C)(C)(CC(C)(C)C)OOC(C)(C)C1=CC=CC=C1 | C17H28O2
